US07148236B2
To a solution of N-{4-[(8-methyl-8-azabicylo[3.2.1]oct-3-yl)thio]phenyl]-3-thiophenecarboxamide (130 mg) in methanol (5 ml) was added a solution of Oxone (446 mg) in water. The mixture was stirred at room temperature for 30 minutes and then applied directly to an SCX cartridge. The impure product eluted with methanol and was subjected to further clean up by preparative LC-MS to yield N-{4-[(8-methyl-8-azabicylo[3.2.1]oct-3-yl)sulfonyl]phenyl]-3-thiophenecarboxamide (75 mg).

reactant | N-{4-[(8-methyl-8-azabicylo[3.2.1]oct-3-yl)thio]phenyl]-3-thiophenecarboxamide | 130 mg | CN1C2CC(CC1CC2)SC2=CC=C(C=C2)NC(=O)C2=CSC=C2 | C19H22N2OS2
reactant | Oxone | 446 mg | OOS(=O)[O-].[K+]
reactant | water | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | N-{4-[(8-methyl-8-azabicylo[3.2.1]oct-3-yl)sulfonyl]phenyl]-3-thiophenecarboxamide | 75 mg | CN1C2CC(CC1CC2)S(=O)(=O)C2=CC=C(C=C2)NC(=O)C2=CSC=C2 | C19H22N2O3S2
